* Schematics Netlist *



C_C1         0 $N_0001  1u  
C_C2         0 $N_0002  1u  
C_C3         0 $N_0003  1u  
C_C4         0 $N_0004  1u  
L_L1         $N_0001 $N_0005  10mH  
L_L2         $N_0002 $N_0006  10mH  
L_L3         $N_0003 $N_0007  10mH  
L_L4         $N_0004 $N_0008  10mH  
R_R1         $N_0005 $N_0009  200  
R_R2         $N_0006 $N_0009  100  
R_R3         $N_0007 $N_0009  50  
R_R4         $N_0008 $N_0009  25  
V_Vin         $N_0009 0  AC 1V
+SIN 0V 0V 0 0 0 0
