* Schematics Netlist *



R_R2         $N_0002 $N_0001  20k  
R_R4         0 $N_0001  10k  
R_R3         $N_0001 $N_0003  10k  
R_R1         $N_0004 $N_0003  20k  
V_V2         $N_0002 0 1V
V_V1         $N_0004 0 1V
