* Schematics Netlist *



C_C1         $N_0001 $N_0002  10u  
R_RC         $N_0004 $N_0003  10k  
Q_T1         $N_0004 $N_0002 $N_0005 QBC548B
R_R2         0 $N_0002  20k  
V_VB         $N_0003 0 15V
C_C2         $N_0004 $N_0006  10u  
R_RL         0 $N_0006  1M  
R_R1         $N_0002 $N_0003  100k  
R_RE         0 $N_0005  2k  
V_Vin         $N_0001 0  AC 1V
+SIN 0 1V 1Khz 0 0 0
