* Schematics Netlist *



R_RC         $N_0002 $N_0001  10k  
Q_T1         $N_0002 $N_0003 $N_0004 QBC548B
R_R2         0 $N_0003  20k  
V_VB         $N_0001 0 15V
R_R1         $N_0003 $N_0001  100k  
R_RE         0 $N_0004  2k  
V_Vin         $N_0005 0 DC 0 AC 1V
+SIN 0 1V 1Khz 0 0 0
C_C2         $N_0002 $N_0006  10u  
R_RL         0 $N_0006  1000k  
C_C1         $N_0005 $N_0003  10u  
