* Schematics Netlist *



V_V1         $N_0001 0  
+SIN 0 3V 1k 0 0 0
R_R2         $N_0003 $N_0002  10k  
R_R1         0 $N_0003  1k  
V_V-         $N_0004 0 9V
X_N1A         $N_0003 $N_0001 $N_0004 $N_0005 $N_0002 LM324
V_V+         0 $N_0005 9V
